* Z:\home\aalmela\scm\git\utn\eaiii\2020\docs\source\adaptacion\spice\FiltroPI.asc
R1 N003 0 {ro}
C1 i 0 {C}
V1 s 0 SINE(0 .3 10e6)
V2 N001 0 50
L3 N002 i {L}
L1 N001 N002 1m
B1 N002 0 I=(V(s) >= 0) * V(s)
C2 N002 0 {co}
C3 N003 i 10µ
;ac dec 10000 1e6 1e9
.tran 0 110000n 105000n
.param L = 5.91507213176122e-06
.param C = 7.957747154594768e-11
.param co = 1e-10
.param ro=50
.backanno
.end
